US09388189B2
(S)-4-Amino-N-(3-hydroxy-4-(oxazol-5-yl)phenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.37 mmol), 4-amino-6-bromo-N-(3-hydroxy-4-(oxazol-5-yl)phenyl)pyrimidine-5-carboxamide (220 mg, 0.58 mmol), DIEA (325 μl, 1.87 mmol) and cesium fluoride (113 mg, 0.74 mmol) were suspended in tert-butanol (10 ml) and the mixture was stirred overnight at 120° C. in a sealed tube. The reaction mixture was diluted with ethyl acetate and washed with water and brine. After evaporation of the solvent, the residue was purified by reverse phase using SP1® Purification System to give 3 mg (1% yield) of the title compound as a solid. Purity 97%.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.37 mmol, 100 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 4-amino-6-bromo-N-(3-hydroxy-4-(oxazol-5-yl)phenyl)pyrimidine-5-carboxamide | 0.58 mmol, 220 mg | NC1=NC=NC(=C1C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)O)Br | C14H10BrN5O3
reactant | DIEA | 1.87 mmol, 325 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | cesium fluoride | 0.74 mmol, 113 mg | [F-].[Cs+]
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-Amino-N-(3-hydroxy-4-(oxazol-5-yl)phenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 3 mg, 1% yield | NC1=NC=NC(=C1C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C29H25N9O4
